US09163021B2
(4-bromopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone
Prepared according to the method described for Preparation 37 using 1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-3-iodo-1H-pyrrolo[3,2-c]pyridine (Preparation 55) and 4-bromo-N-methoxy-N-methylpyridine-2-carboxamide. Purified using silica gel column chromatography eluting with 35-40% EtOAc in hexane.

reactant | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-3-iodo-1H-pyrrolo[3,2-c]pyridine | [Si](C)(C)(C(C)(C)C)OCC(C)N1C=C(C=2C=NC=CC21)I | C16H25IN2OSi
reactant | 4-bromo-N-methoxy-N-methylpyridine-2-carboxamide | BrC1=CC(=NC=C1)C(=O)N(C)OC | C8H9BrN2O2
product | (4-bromopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | BrC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)C | C22H28BrN3O2Si
